US04388475
Step A: Preparation of N-BOC allylglycine
A mixture of 884 mg of allylglycine, 4.6 ml of water, 4.6 ml of dioxane, 1.6 ml of triethylamine and 2.08 g BOC-ON is stirred for 3.75 hrs at 25° C. Then 15 ml of water and 20 ml of ether are added. The aqueous layer is separated, washed with ether, acidified to pH 2 with HCl, and filtered to isolate the crystalline product, 1.4. g, m.p. 109° C.

reactant | allylglycine | 884 mg | C(C=C)NCC(=O)O | C5H9NO2
reactant | dioxane | 4.6 ml | O1CCOCC1 | C4H8O2
reactant | BOC-ON | 2.08 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | water | 15 ml | O | H2O
solvent | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | 4.6 ml | O | H2O
product | N-BOC allylglycine | C(=O)(OC(C)(C)C)C=CCNCC(=O)O | C10H17NO4
